US06992087B2
Preparation of cis-(+/−)-5-(2-chloro-4-methoxyphenyl)-N-[4-ethoxytetrahydrofuran-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting of cis-(+/−)-4-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}tetrahydrofuran-3-ol and making non-critical variations provided the title compound as a light yellow oil. IR (liq.) 2973, 2936, 2874, 1606, 1566, 1481, 1441, 1396, 1287, 1230, 1203, 1181, 1124, 1078, 1046 cm−1; OAMS supporting ions at: ESI+ 406.2; MS (EI) m/z 405 (M+); HRMS (FAB) calcd for C21H28CLN3O3+H1 406.1897, found 406.1889.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | cis-(+/−)-4-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}tetrahydrofuran-3-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1[C@@H](COC1)O)CC | C19H24ClN3O3
product | cis-(+/−)-5-(2-chloro-4-methoxyphenyl)-N-[4-ethoxytetrahydrofuran-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1COC[C@@H]1OCC)CC | C21H28ClN3O3
